* C:\Users\jcasa\Documents\projects\CTIA\spice\summer.asc
V3 VIN 0 SINE(0 15 100 0 0 0 0) AC 15 0
V4 V+ 0 15
V5 V- 0 -15
XU1 N002 N001 V+ V- vout LT1354
R12 vout N001 1meg
V1 Vref 0 2.5
R1 N002 0 1meg
R2 N002 Vref 1meg
R3 VIN N001 1meg
D1 0 vout 1N750
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
;dc V3 -10 10 .1
.tran 100m
;.op
.lib LTC.lib
.backanno
.end
